US04788304
2-(1-Fluoro-5-phenylpentyl)-2-oxiranecarboxylic acid methyl ester (isomer B)
A solution of 500 mg (2.0 mmol) of β-fluoro-α-methylenebenzeneheptanoic acid methyl ester in 50 ml of 1,2-dichloroethane is treated with 1.38 g (8 mmol) of m-chloroperoxybenzoic acid and 20 mg of 4,4'-thiobis(6-t-butyl-m-cresol). The mixture is heated to reflux and maintained under nitrogen for 10.5 hours. An additional 1.38 g (8 mmol) of m-chloroperoxybenzoic acid and 20 mg of 4,4'-thiobis(6-t-butyl-m-cresol) is added and reflux is continued for 8 hours.

reactant | β-fluoro-α-methylenebenzeneheptanoic acid methyl ester | 2.0 mmol, 500 mg | COC(C(C(CCCCC1=CC=CC=C1)F)=C)=O | C15H19FO2
reactant | m-chloroperoxybenzoic acid | 8 mmol, 1.38 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 4,4'-thiobis(6-t-butyl-m-cresol) | 20 mg | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
reactant | m-chloroperoxybenzoic acid | 8 mmol, 1.38 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 4,4'-thiobis(6-t-butyl-m-cresol) | 20 mg | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 2-(1-Fluoro-5-phenylpentyl)-2-oxiranecarboxylic acid methyl ester | COC(=O)C1(OC1)C(CCCCC1=CC=CC=C1)F | C15H19FO3
